US05122537
1-(2-methoxynaphth-1-yl)-1-(phenylthio)-2-aminoethane (VIII, (A), R=CH3, R2 =H, n=1)
To a vigorously stirred suspension of lithium aluminum hydride (76 mg. 20 mmol) in anhydrous ether - THF 2:1 solvent mixture (80 ml) a solution of 1-(2-methoxynaphth-1-yl)-1-(phenylthio)-2-nitroethane (3394 mg, 10 mmol) in ether- THF 2:1 (40 ml) is added dropwise. The reaction mixture is heated at reflux for 24 h and then cooled to 0° C. Ether is added and the excess of LiAlH4 is destroyed by the cautious successive addition of water (2 ml) and 2N NaOH solution (4 ml). The aluminum salts are filtered off and the organic layer evaporated in vacuo. The residue is dissolved in ether and the ethereal solution extracted with 2N HCl solution. The aqueous acidic layer is brought to pH 9 by addition of 2N NaOH and extracted with ether. The ethereal layer is dried with Na2SO4 and then evaporated to dryness in vacuo to give almost pure title compound in 70 % yield (2165 mg).

reactant | lithium aluminum hydride | 20 mmol, 76 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(2-methoxynaphth-1-yl)-1-(phenylthio)-2-nitroethane | 10 mmol, 3394 mg | COC1=C(C2=CC=CC=C2C=C1)C(C[N+](=O)[O-])SC1=CC=CC=C1 | C19H17NO3S
reactant | Ether | CCOCC | C4H10O
solvent | ether THF | CCOCC.C1CCOC1
solvent | ether THF | 40 ml | CCOCC.C1CCOC1
product | 1-(2-methoxynaphth-1-yl)-1-(phenylthio)-2-aminoethane | 70 % yield | COC1=C(C2=CC=CC=C2C=C1)C(CN)SC1=CC=CC=C1 | C19H19NOS
